Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Gadavist / 
Gadolinium-Containing Contrast Media
 
Attending: ___.
 
Chief Complaint:
Post-procedural pain and nausea
 
Major Surgical or Invasive Procedure:
___ STATUS POST EMBOLIZATION OF BILATERAL UTERINE ARTERIES

 
History of Present Illness:
Ms ___ is a ___ woman with a history of symptomatic 
adenomyosis, who presents for post-procedural pain and nausea 
after uncomplicated embolization of bilateral uterine arteries 
via left radial artery. 

Post-procedure vital signs were stable.
Exam notable for TR band was placed at 11:15am.
Labs showed Cr 1.2 (baseline), WBC 6.2, Hgb 12.2, Plt 319, INR 
1.0.
Imaging showed:  
1. Right uterine artery supplying a small adenomyoma. Tiny 
cervical and ovarian arteries arose from the proximal uterine 
artery. Embolization site was far distal from the origin of 
these arteries and particular care was taken to ensure no reflux 
of particles occurred during embolization. No arteriovenous 
shunting. 
2. Left uterine artery supplying a small adenomyosis. No 
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
3. No evidence of ovarian arterial supply to the fibroids. 
IMPRESSION: Left radial artery access bilateral uterine artery 
particle embolization to near stasis. 
   
Decision was made to admit to medicine for further management.  

On arrival to the floor, patient reports continues to have 
abdominal cramping, worse than baseline. She has vomited once, 
and still has nausea. No chest pain or shortness of breath. Left 
arm without pain, numbness, or tingling. No other complaints.  

 
Past Medical History:
- symptomatic adenomyosis
- HLD
- acne
 
Social History:
___
Family History:
Mother ___ ___ BREAST CANCER   
Father Living DIABETES ___   
MGM Living   BREAST CANCER   s/p mastectomy 
Aunt ___   BREAST CANCER   
     
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
===========================
VS -  99.0 117/71 61 18 98% ra
Wt: 99.3kg
GEN: weak, but nontoxic, lying in bed, NAD
HEENT: mild diaphoresis, towel over forehead, mmm, nl OP
CV: rrr, no m/r/g
PULM: nl wob on ra, LCAB, no wheezes or crackles
ABD: soft, diffusely tender, worse in suprapubic region, no r/g, 
+bs
EXTREM: warm, 2+ radial and DP pulses bilaterally. TR band off. 
SKIN: no rashes or ecchyomses 
NEURO: alert & oriented x3. Moving all 4 extremities. Moving all 
fingers in L hand without difficulut
PSYCH: mood good, affect appropriate 

DISCHARGE PHYSICAL EXAM:
===========================
VS - 98.2 ___ 105-114/55-61 16 96% ra
GEN: well appearing, sitting in bed, NAD
CV: rrr, no m/r/g
PULM: nl wob on ra, LCAB, no wheezes or crackles
ABD: soft, very mild diffuse tenderness, no r/g, +bs
EXTREM: warm, 2+ radial and DP pulses bilaterally. TR band off. 
No bruits or tenderness over L radial artery.
SKIN: no rashes or ecchyomses 
NEURO: alert & oriented x3. Moving all 4 extremities. Moving all 
fingers in L hand without difficulty
 
Pertinent Results:
ADMISSION LABS:
===========================
___ 07:55AM BLOOD WBC-6.2 RBC-4.41 Hgb-12.2 Hct-36.9 MCV-84 
MCH-27.7 MCHC-33.1 RDW-13.6 RDWSD-42.0 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD ___
___ 07:55AM BLOOD Creat-1.2*

IMAGING/STUDIES:
===========================
___ UTERINE EMBOLIZATION: 
1. Right uterine artery supplying a small adenomyoma. Tiny 
cervical and ovarian arteries arose from the proximal uterine 
artery. Embolization site was far distal from the origin of 
these arteries and particular care was taken to ensure no reflux 
of particles occurred during embolization. No arteriovenous 
shunting. 
2. Left uterine artery supplying a small adenomyosis. No 
arteriovenous shunting, stenosis, vesical, vaginal or ovarian 
branches noted. 
3. No evidence of ovarian arterial supply to the fibroids. 
IMPRESSION: Left radial artery access bilateral uterine artery 
particle embolization to near stasis. 

DISCHARGE LABS:
===========================
___ 07:25AM BLOOD WBC-11.6*# RBC-3.77* Hgb-10.5* Hct-32.4* 
MCV-86 MCH-27.9 MCHC-32.4 RDW-14.0 RDWSD-44.0 Plt ___
___ 07:25AM BLOOD Glucose-104* UreaN-23* Creat-1.1 Na-139 
K-4.3 Cl-103 HCO3-27 AnGap-___RIEF SUMMARY STATEMENT:
==========================
___ woman w/ h/o symptomatic adenomyosis, who was admitted for 
post-procedural pain and nausea after uncomplicated embolization 
of bilateral uterine arteries via left radial artery.

ACTIVE ISSUES: 
==========================
# STATUS POST EMBOLIZATION OF BILATERAL UTERINE ARTERIES: 
Patient presented for embolization of uterine arteries for 
symptomatic adenomyosis. She was admitted for post-procedural 
pain and nausea after uncomplicated embolization of bilateral 
uterine arteries via left radial artery. The procedure went well 
with no acute complications. Her post-procedure pain was 
initially controlled with a hydromorphone PCA, which was 
transitioned to PO oxycodone & Tylenol. Her post-procedure 
nausea was controlled with Zofran, and she was able to tolerate 
PO at time of discharge. 

CHRONIC STABLE ISSUES:
==========================
# SYMPTOMATIC ADENOMYOSIS:
Pain was controlled, as above. Outpatient follow-up with PCP was 
arranged.

# HLD
Continued home Fish oil and fenofibrate

TRANSITIONAL ISSUES:
==========================
# Creatinine 1.2 on this admission, appears to be baseline. 
Please recheck as outpatient and consider further evaluation
# Please evaluate post-procedure pain and nausea at her 
follow-up appointment, and consider prescribing more oxycodone 
and/or Zofran if needed.
# CODE: Full
# CONTACT: FATHER ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 1% Solution 1 Appl TP DAILY:PRN acne 
2. Fenofibrate 160 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1. Fenofibrate 160 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6 hours prn Disp 
#*50 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth BID 
prn Disp #*30 Capsule Refills:*0
5. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8 hours prn Disp #*15 
Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN severe pain 
do not drive while taking this medicine 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4 hours prn Disp #*30 
Tablet Refills:*0
7. Senna 8.6 mg PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth BID prn Disp 
#*30 Capsule Refills:*0
8. Clindamycin 1% Solution 1 Appl TP DAILY:PRN acne 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
- Symptomatic adenomyosis status post embolization of bilateral 
uterine arteries
- Post-procedure nausea
- Post-procedure pain

SECONDARY DIAGNOSES
- Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHY WAS I IN THE HOSPITAL
- You needed a procedure to treat your adenomyosis
- After the procedure, you had pain and nausea

WHAT HAPPENED IN THE HOSPITAL
- You had a procedure called an embolization of your uterine 
arteries. 
- You had pain and nausea, which we controlled with medicines

WHAT DO I NEED TO DO AT HOME
- Take all of your medicines as prescribed
- Do not drive while on narcotic medicines
- Go to all of your follow-up appointments
- Call your doctor if you have fevers, chills, worsening cramps, 
worsening bleeding, or any other symptoms that are concerning to 
you
 
Followup Instructions:
___